US05068379
Preparation of N-Trimethylsilyl 4-Fluorobenzenesulfonamide (3c)
A glass reactor equipped with a stirrer, reflux condenser and gas inlet was charged with solid 4-fluorobenzenesulfonyl chloride (0.250 mol, 49.65 g). Hexamethyldisilazane (0.263 mol, 56.6 ml) was added to the reactor and the mixture was gradually heated with stirring to a temperature of 115° C., at which time it became clear. The mixture was then heated at the boiling point for 21 hours. Analysis of the mixture by 1H NMR indicated that the reaction was about 50% complete. Volatile materials were then removed by heating at a temperature of 65° C. under reduced pressure to yield a brown liquid which was distilled to remove unreacted sulfonyl chloride. The residue was redistilled under a pressure of 0.03 mm. Hg. The fraction collected from 40° to 97° C. was analyzed by 1H NMR and was found to contain the N-mono- and N,N-bis(trimethylsilyl)sulfonamides in a 1:1 molar ratio. Using the same analytical technique a second fraction collected within the range from 97° and 122° C. was found to contain the N-mono- and N,N-bis(trimethylsilyl)sulfonamides in a 8.5:1 molar ratio. The second fraction was used as the starting material (3c) for the subsequent reaction.

reactant | 4-fluorobenzenesulfonyl chloride | 0.250 mol, 49.65 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | Hexamethyldisilazane | 0.263 mol, 56.6 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | N-Trimethylsilyl 4-Fluorobenzenesulfonamide | C[Si](NS(=O)(=O)C1=CC=C(C=C1)F)(C)C | C9H14FNO2SSi
